US07030138B2
3-Chloro-4-(1,2-dimethylpiperidin-4-yloxy)nitrobenzene
To a suspension of 4-(1-t-butoxycarbonyl-2-methylpiperidin-4-yloxy)-3-chloronitrobenzene (1.15 g) obtained in reference example 85 in 90% formic acid (3.10 g) was added 37% formaldehyde (2.50 g), and the resulting mixture was stirred at 100° C. for 2 hours. After cooling to room temperature, the reaction mixture was neutralized with an aqueous potassium carbonate solution and extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue obtained was purified by chromatography on a silica gel column using a mixed solvent of dichloromethane and methanol (9:1) as the eluent to afford the title compound (0.80 g, yield: 90%) as a yellow oil.

reactant | 4-(1-t-butoxycarbonyl-2-methylpiperidin-4-yloxy)-3-chloronitrobenzene | 1.15 g | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC1=C(C=C(C=C1)[N+](=O)[O-])Cl)C | C17H23ClN2O5
reactant | formaldehyde | 2.50 g | C=O | CH2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | formic acid | 3.10 g | C(=O)O | CH2O2
product | 3-Chloro-4-(1,2-dimethylpiperidin-4-yloxy)nitrobenzene | 0.80 g, yield: 90% | ClC=1C=C(C=CC1OC1CC(N(CC1)C)C)[N+](=O)[O-] | C13H17ClN2O3
